US05308857
A solution of 4-(5-acetylaminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole (4.76 g) in 1N-hydrochloric acid (51.1 ml) was refluxed for 8 hours with stirring. The solution was made basic to pH 10 with an aqueous potassium carbonate. The resulting precipitate was collected by filtration and washed with water to afford 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole (4.03 g).

reactant | 4-(5-acetylaminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole | 4.76 g | C(C)(=O)NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C11H13N5O2S
reactant | hydrochloric acid | 51.1 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole | 4.03 g | NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C9H11N5OS
